US04661502
3-Dimethylcarbamoyloxypyridine (1.66 g) and chloromethyl acetate (2.18 g) were stirred at 90° C. for 1 hr. The hot reaction mixture was poured into 100 ml of anhydrous diethylether with vigorous stirring. The supernatant was removed by decantation followed by addition of 500 ml of diethylether. Again, the supernatant was removed by decantation. These procedures were repeated three times. The solvent was removed under reduced pressure to give 2.56 g of 1-(acetyloxymethyl)-3-(dimethylcarbamoyloxy)pyridinium chloride as oil. The structure was determined by N.M.R.

reactant | 3-Dimethylcarbamoyloxypyridine | 1.66 g | CN(C(=O)OC=1C=NC=CC1)C | C8H10N2O2
reactant | chloromethyl acetate | 2.18 g | C(C)(=O)OCCl | C3H5ClO2
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | 1-(acetyloxymethyl)-3-(dimethylcarbamoyloxy)pyridinium chloride | 2.56 g | [Cl-].C(C)(=O)OC[N+]1=CC(=CC=C1)OC(N(C)C)=O | InChI=1S/C11H15N2O4.ClH/c1-9(14)16-8-13-6-4-5-10(7-13)17-11(15)12(2)3;/h4-7H,8H2,1-3H3;1H/q+1;/p-1
